US04138581
Following the procedure described above in Example 58A but using 3,4-dihydroxyphenyl isopropylaminomethyl ketone hydrochloride instead of 3,4-dihydroxyphenyl tert-butylaminomethyl ketone hydrochloride and o-propionamidobenzoyl chloride instead of isovaleryl chloride, there is obtained 3-hydroxy-4-(o-propionamidobenzoyloxy)phenyl isopropylaminomethyl ketone; and by interaction of this base with methanesulfonic acid there is obtained the methanesulfonate salt. When this methanesulfonate is catalytically hydrogenated, using a procedure similar to that described above in Example 2B, there is obtained 3-hydroxy-4-(o-propionamidobenzoyloxy)-alpha-(isopropylaminomethyl)benzyl alcohol methanesulfonate.

reactant | 3,4-dihydroxyphenyl isopropylaminomethyl ketone hydrochloride | Cl.C(C)(C)NCC(=O)C1=CC(=C(C=C1)O)O
reactant | o-propionamidobenzoyl chloride | C(CC)(=O)NC1=C(C(=O)Cl)C=CC=C1 | C10H10ClNO2
product | 3-hydroxy-4-(o-propionamidobenzoyloxy)phenyl isopropylaminomethyl ketone | C(C)(C)NCC(=O)C1=CC(=C(C=C1)OC(C1=C(C=CC=C1)NC(CC)=O)=O)O | C21H24N2O5
